US05972965
To a solution of 4-methoxy-1-indanone (0.71 g) and iso-propylamine (8 ml) in dichloromethane (10 ml) was added 1M solution of titanium(IV) chloride in dichloromethane (11 ml) at -60° C. for 15 minutes. The reaction mixture was stirred for 3 hours at the same temperature. Methanol (15 ml) was added to the reaction mixture. After being stirred for 2 hours at room temperature, the solution was evaporated in vacuo. The residue was partitioned between ethyl acetate and 1N aqueous NaOH solution. The insoluble material was filtered off by zeolite. The organic layer was washed with brine. The dried solvent was evaporated in vacuo to give 1-isopropylamino-2,3-dihydro-4-methoxy-1H-indene (0.89 g). MS (m/z): 206 (M+ +1) NMR (CDCl3, δ): 7.18 (1H, dd, J=7.8, 7.8 Hz), 6.97 (1H, d, J=7.8 Hz), 6.71 (1H, d, J=7.8 Hz), 4.30 (1H, t, J=6.7 Hz), 3.83 (3H, s), 3.20-2.87 (2H, m), 2.80-2.60 (1H, m), 2.50-2.35 (1H, m), 2.00-1.68 (1H, m), 1.13 (3H, d, J=6.9 Hz), 1.12 (3H, d, J=6.9 Hz)

reactant | 4-methoxy-1-indanone | 0.71 g | COC1=C2CCC(C2=CC=C1)=O | C10H10O2
reactant | iso-propylamine | 8 ml | C(C)(C)N | C3H9N
reactant | Methanol | 15 ml | CO | CH4O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 11 ml | ClCCl | CH2Cl2
catalyst | titanium(IV) chloride | [Ti](Cl)(Cl)(Cl)Cl
product | 1-isopropylamino-2,3-dihydro-4-methoxy-1H-indene | 0.89 g | C(C)(C)NC1CCC2=C(C=CC=C12)OC | C13H19NO
